US04223141
1,269 g of a 35% strength aqueous solution of formaldehyde (pH 3.7) are adjusted to pH 7.3 in a 4-liter three-necked flask by adding 1.8 g of borax. After 252 g of melamine have been added, methylolation is carried out at 75° C. for 2 hours, while stirring with a hook stirrer. The readily stirrable slurry of methylolmelamine obtained is processed further, as described in Example 1, after 1,600 g of methanol have been added.

reactant | formaldehyde | pH 3.7 | C=O | CH2O
reactant | melamine | 252 g | N1=C(N)N=C(N)N=C1N | C3H6N6
product | methylolmelamine | C(O)NC1=NC(=NC(=N1)N)N | C4H8N6O
